US07307073B2
(S)-7-amino-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one
A solution of (S)-7-nitro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one (7.4 g), prepared as described in Example 3L, in ethanol (100 ml) and methanol (50 ml) was hydrogenated over 10% palladium on activated carbon under 2 bar hydrogen, until the uptake of hydrogen ceased. The mixture was filtered to remove the catalyst and evaporated to dryness in vacuo. The crude product was passed through a short silica column (eluting with 10% methanol in dichloromethane) to give the title product (6.1 g). EIMS: m/z=219 [M+H]+

reactant | (S)-7-nitro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one | 7.4 g | [N+](=O)([O-])C=1C=CC2=C(C(N3[C@H](CO2)CCC3)=O)C1 | C12H12N2O4
reactant | methanol | 50 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
product | (S)-7-amino-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one | 6.1 g | NC=1C=CC2=C(C(N3[C@H](CO2)CCC3)=O)C1 | C12H14N2O2
